US08058263B2
3.1. (R)-2-tert-butoxycarbonylamino-3-(diethoxy-phosphoryl)-propionic acid methyl ester
Boc-3-iodo-L-Ala-OMe (10 g) was dissolved in triethyl phosphite (79.7 mL). The mixture was heated at 140° C. for 15 h and evaporated to dryness to give the desired compound (9.37 g). It was used in the next step without further purification.

reactant | Boc-3-iodo-L-Ala-OMe | 10 g | N([C@@H](CI)C(=O)OC)C(=O)OC(C)(C)C | C9H16INO4
reactant | triethyl phosphite | 79.7 mL | P(OCC)(OCC)OCC | C6H15O3P
product | (R)-2-tert-butoxycarbonylamino-3-(diethoxy-phosphoryl)-propionic acid methyl ester | 9.37 g | COC([C@H](CP(=O)(OCC)OCC)NC(=O)OC(C)(C)C)=O | C13H26NO7P
